US07232592B2
Dichloromethane (25 ml) and thionyl chloride (20 ml) were added to 2-(trans-4-propylcyclohexyl)-3-(3,4,5-trifluorophenyl)propionic acid crude product (12.3 g), and refluxed while heating for 4 hours. The dichloromethane was distilled off at normal pressure and the thionyl chloride was distilled off under reduced pressure followed by the addition of dichloromethane (50 ml) to the residue to prepare a dichloromethane solution of 2-(trans-4-propylcyclohexyl)-3-(3,4,5-trifluorophenyl)propionic acid chloride. This was then dropped in to a dichloromethane suspension (20 ml) of aluminum chloride (8 g) at room temperature over the course of 30 minutes. Moreover, after stirring for 2 hours, the reaction solution was poured into 10% hydrochloric acid while cooling with ice. The organic layer was concentrated after drying with anhydrous sodium sulfate. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=20:1) to obtain 5,6,7-trifluoro-2-(trans-4-propylcyclohexyl)-1-indanone crude product (8.8 g, purity: 73%). This was then recrystallized from ethanol to obtain 5,6,7-trifluoro-2-(trans-4-propylcyclohexyl)-1-indanone (5 g, purity: 99%). This compound had a molecular weight of 310 as determined by mass analysis.

reactant | thionyl chloride | 20 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-(trans-4-propylcyclohexyl)-3-(3,4,5-trifluorophenyl)propionic acid | C(CC)[C@@H]1CC[C@H](CC1)C(C(=O)O)CC1=CC(=C(C(=C1)F)F)F | C18H23F3O2
reactant | aluminum chloride | 8 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | Dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 5,6,7-trifluoro-2-(trans-4-propylcyclohexyl)-1-indanone | FC=1C=C2CC(C(C2=C(C1F)F)=O)[C@@H]1CC[C@H](CC1)CCC | C18H21F3O
